US07452886B2
6-Bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (3 mmol) and 3-nitro-[1,2,4]triazole (3 mmol) are dissolved in DMSO (20 ml). Potassium carbonate (6 mmol) is added to the solution. The mixture is allowed to stir at room temperature overnight. The reaction mixture is diluted with H2O and extracted with AcOEt. The organic layer is dried over MgSO4 and evaporated in vacuo. The residue is purified by silica gel column chromatography (n-hexane:AcOEt=1:5) to give 7-(2,2-dimethyl-propyl)-6-(3-nitro-[1,2,4]triazol-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 41% yield.

reactant | 6-Bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 3 mmol | BrCC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C13H15BrN4
reactant | 3-nitro-[1,2,4]triazole | 3 mmol | [N+](=O)([O-])C1=NNC=N1 | C2H2N4O2
reactant | Potassium carbonate | 6 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | 7-(2,2-dimethyl-propyl)-6-(3-nitro-[1,2,4]triazol-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 41% yield | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2N=C(N=C2)[N+](=O)[O-])(C)C | C15H16N8O2
